US09328110B2
To a stirred solution of 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde (8.0 g, 27.1 mmol) in anhydrous THF (270 mL) was added dropwise a solution of phenylmagnesium bromide (27.08 mL of a 1 M solution in THF). After 30 minutes, the solution was quenched with saturated ammonium chloride (100 mL), diluted with ethyl acetate (300 mL), and the layers separated. The organic solution was washed successively with a saturated aqueous sodium bicarbonate solution (100 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated to a light orange oil. Chromatography on silica gel (elution with 5% methanol in dichloromethane) provided 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-ol (4.3 g) as a light orange, gummy solid.

reactant | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)butyraldehyde | 27.1 mmol, 8.0 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC=O | C18H21N3O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 270 mL | C1CCOC1 | C4H8O
product | 4-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-ol | 4.3 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC(O)C1=CC=CC=C1 | C24H27N3O
